US09164384B2
In 85 g of acetic acid was dissolved 12 g of 4-(2-methoxyethoxy)phenyl phenyl sulfide obtained in Synthesis Example 1-29. While the solution was maintained at an internal temperature of 30° C., 4.5 g of 35 wt % aqueous hydrogen peroxide was added dropwise. The reaction solution was aged at room temperature for 18 hours, after which under ice cooling, a mixture of 1.2 g sodium thiosulfate pentahydrate and 15 g water was added dropwise to quench the reaction. The solution was combined with 80 g of methylene chloride and 40 g of water for extraction. The organic layer was separated, washed with water, and concentrated in vacuum. On subsequent crystallization from ethyl acetate/hexane, 11 g of the target compound, 4-(2-methoxyethoxy)phenyl phenyl sulfoxide was obtained as white crystals. Yield 86%.

reactant | 4-(2-methoxyethoxy)phenyl phenyl sulfide | 12 g | C1(=CC=CC=C1)SC1=CC=C(C=C1)OCCOC | C15H16O2S
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium thiosulfate pentahydrate | 1.2 g | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 15 g | O | H2O
solvent | acetic acid | 85 g | C(C)(=O)O | C2H4O2
product | 4-(2-methoxyethoxy)phenyl phenyl sulfoxide | Yield 86% | C1(=CC=CC=C1)S(=O)C1=CC=C(C=C1)OCCOC | C15H16O3S
